### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.Multilinear.Basic

### PR DESCRIPTION
**Pull request by LukasMias**
---

- [x] depends on: https://github.com/leanprover-community/mathlib/pull/10140
- [x] depends on: #3320

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
I was vaguely hopeful that I might be able to get leanprover-community/mathlib#10140 in befere this was ported, but perhaps I'm too late.

**Review by Parcly-Taxel — APPROVED** [review]

**Comment by eric-wieser** [comment]
It will be substantially easier to forward-port https://github.com/leanprover-community/mathlib/pull/10140 into this PR while it is open than after it is merged; so I'd prefer to reach a decision on that PR first.

**Comment by mattrobball** [comment]
The `simpNF` can be replicated in your editor if you `set_option synthInstance.maxHeartbeats 2250` and using `simp` on itself. It disappears with 2300 heart beats. Is `simp` throttled in the linter?

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib#10140
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by eric-wieser** [comment]
I imagine that we missed tonight's mathport run, so this will need to wait till Saturday morning

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1672 @@
...
+#align multilinear_map.const_of_is_empty MultilinearMap.constOfIsEmpty
+
+@[simp]
+lemma constOfIsEmpty_apply [inst_6 : IsEmpty ι] (m : M₂) :
+    ⇑(MultilinearMap.constOfIsEmpty R M₁ m) = Function.const ((i : ι) → M₁ i) m := by
+  simp only [constOfIsEmpty, coe_mk]
+#align multilinear_map.const_of_is_empty_apply MultilinearMap.constOfIsEmpty_apply
+end
+
+-- Porting note: Included `FunLike.coe` to avoid strange CoeFun instance for Equiv
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:311]: This is #3082

**Comment by eric-wieser** [comment]
I'm working on porting the latest changes in [port/LinearAlgebra.Multilinear.Basic-redo](https://github.com/leanprover-community/mathlib4/tree/port/LinearAlgebra.Multilinear.Basic-redo), which I intend to merge back into this branch soon.

**Comment by eric-wieser** [comment]
Ok, I've updated this to reflect the latest mathport output. Hopefully the correct choice of diff-base should be obvious from the commit history.

**Comment by semorrison** [comment]
Except for the always scary `nolint simpNF`, this looks good. I couldn't work out the commit history sufficiently to actually be able to find a usable diff against mathport output. @eric-wieser, do you want to either provide a link direct for that, or just do the merge yourself?

**Comment by eric-wieser** [comment]
Sure, the diff between the latest mathport output and this PR's head is https://github.com/leanprover-community/mathlib4/pull/2450/files/ce20a4cc5f928b29365b288bc3edbad8a408a1e5..b93b11f004763f993fc186d1b0dad7210cf4748e

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 2]
```diff
@@ -653,26 +671,29 @@ end ApplySum
...
 #align multilinear_map.cod_restrict MultilinearMap.codRestrict
+#align multilinear_map.cod_restrict_apply_coe MultilinearMap.codRestrict_apply_coe
 
 section RestrictScalar
 
+/- Porting note: These used to be a single variable statement, had to split them up to two so that
+the universe metavariable is instantiated before typeclass search runs in `IsScalarTower`. -/
 variable (R) {A : Type _} [Semiring A] [SMul R A] [∀ i : ι, Module A (M₁ i)] [Module A M₂]
-  [∀ i, IsScalarTower R A (M₁ i)] [IsScalarTower R A M₂]
+variable [∀ i, IsScalarTower R A (M₁ i)] [IsScalarTower R A M₂]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Revisiting this, I wonder if the actual problem is that `(R)` is not a binder update but a new variable.
Suggesting that `variable (R)` should be on its own line.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 3]
```diff
@@ -688,61 +709,64 @@ variable {ι₁ ι₂ ι₃ : Type _}
...
 #align multilinear_map.dom_dom_congr_mul MultilinearMap.domDomCongr_mul
 
-/-- `multilinear_map.dom_dom_congr` as an equivalence.
+/-- `MultilinearMap.domDomCongr` as an equivalence.
 
 This is declared separately because it does not work with dot notation. -/
 @[simps apply symm_apply]
 def domDomCongrEquiv (σ : ι₁ ≃ ι₂) :
-    MultilinearMap R (fun i : ι₁ => M₂) M₃ ≃+ MultilinearMap R (fun i : ι₂ => M₂) M₃ where
+    MultilinearMap R (fun _i : ι₁ => M₂) M₃ ≃+ MultilinearMap R (fun _i : ι₂ => M₂) M₃ where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:748]: I realize that when merging I was inconsistent here; do we prefer `_i` or `_`, given that Lean complains if we use `i`.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 4]
```diff
@@ -868,98 +892,102 @@ variable {R' A : Type _} [Semiring R'] [Semiring A] [∀ i, Module A (M₁ i)] [
...
-      map_smul' := fun _ m i c => by
+        simp only [comp_apply, piCongrLeft'_symm_update, f.map_add]
+      map_smul' := fun m i c => by
         skip
-        letI := σ.decidable_eq
+        letI := σ.decidableEq
         rw [← σ.apply_symm_apply i]
         intro x
-        simp only [comp_app, Pi_congr_left'_symm_update, f.map_smul] }
+        simp only [Function.comp, piCongrLeft'_symm_update, f.map_smul] }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Inconsistent here too, probably my fault. It looks like we're missing `#align comp_app Function.comp_apply`

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 5]
```diff
@@ -1107,11 +1140,12 @@ instance : AddCommGroup (MultilinearMap R M₁ M₂) :=
...
     zsmul := fun n f =>
       { toFun := fun m => n • f m
-        map_add' := fun _ m i x y => by simp [smul_add]
-        map_smul' := fun _ l i x d => by simp [← smul_comm x n] }
-    zsmul_zero' := fun a => MultilinearMap.ext fun v => AddCommGroup.zsmul_zero' _
-    zsmul_succ' := fun z a => MultilinearMap.ext fun v => AddCommGroup.zsmul_succ' _ _
-    zsmul_neg' := fun z a => MultilinearMap.ext fun v => AddCommGroup.zsmul_neg' _ _ }
+        map_add' := fun m i x y => by simp [smul_add]
+        map_smul' := fun l i x d => by simp [← smul_comm x n (_ : M₂)] }
+    -- porting note: changed from `AddCommMonoid.` to `SubNegMonoid.`.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1145]:
```suggestion
    -- porting note: changed from `AddCommGroup.` to `SubNegMonoid.`.
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 6]
```diff
@@ -1191,23 +1225,24 @@ the variables, given by `m ↦ f (m 0) (tail m)`-/
...
-    rw [Subsingleton.elim dec (by infer_instance)]
+  map_smul' := @fun dec m i c x => by
+    -- porting note: `clear` not necessary in Lean 3 due to not being in the instance cache
+    rw [Subsingleton.elim dec (by clear dec; infer_instance)]; clear dec
     by_cases h : i = 0
     · subst i
-      rw [update_same, update_same, tail_update_zero, tail_update_zero, ← smul_apply, f.map_smul]
-    · rw [update_noteq (Ne.symm h), update_noteq (Ne.symm h)]
+      simp only [update_same, map_smul, tail_update_zero, MultilinearMap.smul_apply]
+    · simp_rw [update_noteq (Ne.symm h)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: This change might not be necessary after all

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 7]
```diff
@@ -1294,43 +1331,44 @@ variable {R M M₂}
...
+  map_add' := @fun dec m i x y => by
+    -- porting note: `clear` not necessary in Lean 3 due to not being in the instance cache
+    rw [Subsingleton.elim dec (by clear dec; infer_instance)]; clear dec
     by_cases h : i.val < n
     · have : last n ≠ i := Ne.symm (ne_of_lt h)
-      rw [update_noteq this, update_noteq this, update_noteq this]
+      simp_rw [update_noteq this]
       revert x y
-      rw [(cast_succ_cast_lt i h).symm]
+      rw [(castSucc_cast_lt i h).symm]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1344]: `castSucc_cast_lt` is misnamed, it should be `castSucc_castLt`. I wonder why mathport can't align it.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:748]: We tend to prefer just `_`.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1344]: #3320

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: The change is necessary – it doesn't compile otherwise.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Done. Is this ready to merge?

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#10140~~
* ~~leanprover-community/mathlib4#3320~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by ChrisHughes24** [comment]
bors merge
